US08232278B2
Synthesis of 2-amino-4-(trifluoroethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine
To a degassed suspension of 2-amino-4-(trifluoroethoxy)-6-chloro-pyrido[3,2-d]pyrimidine (24 mg, 0.1 mmol), 4-fluorophenyl boronic acid (21 mg, 0.15 mmol), and potassium carbonate (280 mg, 2.03 mmol) in a mixture of dioxane (15 ml) and water (5 ml) was added a catalytic amount of tetrakis(triphenylphosphine)palladium(0) (20 mg, 0.017 mmol). The mixture was refluxed for 45 minutes. The solvents were evaporated in vacuo, and the crude residue was purified by preparative TLC, using a mixture of methanol and dichloromethane (in a ratio of 10:90) as mobile phase, yielding the pure title compound, which was characterised by its mass spectrum as follows: MS (m/z): 339 ([M+H]+, 100).

reactant | 2-amino-4-(trifluoroethoxy)-6-chloro-pyrido[3,2-d]pyrimidine | 0.1 mmol, 24 mg | NC=1N=C(C2=C(N1)C=CC(=N2)Cl)OCC(F)(F)F | C9H6ClF3N4O
reactant | 4-fluorophenyl boronic acid | 0.15 mmol, 21 mg | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | potassium carbonate | 2.03 mmol, 280 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 15 ml | O1CCOCC1 | C4H8O2
solvent | water | 5 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.017 mmol, 20 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-amino-4-(trifluoroethoxy)-6-(4-fluorophenyl)-pyrido[3,2-d]pyrimidine | NC=1N=C(C2=C(N1)C=CC(=N2)C2=CC=C(C=C2)F)OCC(F)(F)F | C15H10F4N4O
